Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
subjective fevers, lethargy, and bloody drain output 
 
Major Surgical or Invasive Procedure:
___: For the large pelvic fluid collections, CT-guided 
repositioning of existing drain and placement of an additional 
drain.

___: Removal of more recently placed drain  

 
History of Present Illness:
Ms. ___ is an ___ with PMH of hypertension and bladder 
cancer (high grade invasive urothelial carcinoma pT2b) s/p 
TAH/BSO, radical cystectomy w/ileal conduit c/b intra-abdominal 
infection and pelvic fluid collection s/p ___ guided drain 
placement ___ who presents with 2 days of generalized 
malaise and 1 day of fevers.  
 Patient underwent ___ guided JP drain placement for 
intra-abdominal fluid collection and infection, thought to be 
complicated of recent TAH/BSO, radical cystectomy and pelvic 
lymph node biopsy. This procedure was done on ___. Over the 
past 2 days she had noticed generalized malaise and 1 day of 
fever w/rigors to Tmax 101.5 at home. She notes that the 
drainage from her intra-abdominal drain is darker, but her 
urostomy output has been unchanged. She notes some associated 
mild LLQ pain. She denies diarrhea, BRBPR, rash, cough, 
headache, neck stiffness. She presented initially to OSH, where 
she was evaluated with BCx and drain culture and was started on 
zosyn and vancomycin and given 650mg acetaminophen. She was 
transferred to ___ for further management.  

 
Past Medical History:
- Hypertension  
 - s/p lap chole  
 - s/p left knee replacement  
 - s/p laminectomy of L5-S1 at age ___  
 - Bladder Cancer high grade TCC, T1 diagnosed in ___, then 
___ pelvic MRI w/invasion into bladder wall, perivesical 
soft tissue and anterior vaginal wall c/w T4 staging  
 - s/p hysterectomy and bilateral oophorectomy for large uterus 
w/fibroid, s/p laparascopic b/l pelvic lymph node resection, s/p 
radical cystectomy and anterior vaginectomy with vaginal 
reconstruction with ileal conduit creation ___, course 
complicated by bacteremia and development of intra-abdominal 
fluid collection, no s/p drain placement by ___ ___  
 - h/o LLE DVT and PE on lovenox  

 
Social History:
___
Family History:
Negative for bladder CA.

 
Physical Exam:
ADMISSION EXAM:
===============
 Vital Signs: 100.9 PO 130 / 54 L Lying 80 24 95 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear  
 CV: RRR, normal S1 S2, systolic murmur RUBS, no rubs, gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
+ileal conduit drain in RLQ, with pigtail drain in LLQ draining 
dark/sang fluid  
 GU: No foley  
 Ext: Warm, well perfused, 1+ nonpitting edema LLE  
 Neuro: CN2-12 grossly intact, moving all extremities 
spontaneously

DISCHARGE EXAM: 
===============
 Vital signs: 98.3  134/64  71  20  96 RA 
 General: AxO x3
 HEENT: Sclera anicteric
 Neck: supple 
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi on anterior auscultation 
 CV: Regular rate and rhythm, normal S1 + S2, III/VI SEM
 Abdomen: +BS, ileal conduit draining clear yellow urine.  Has 
one LLQ drain in place draining serosanguinous fluid. 
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:10PM BLOOD WBC-19.4*# RBC-2.53* Hgb-6.9* Hct-22.9* 
MCV-91 MCH-27.3 MCHC-30.1* RDW-15.1 RDWSD-49.5* Plt ___
___ 07:10PM BLOOD Neuts-81.4* Lymphs-9.4* Monos-7.4 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-15.77*# AbsLymp-1.81 
AbsMono-1.43* AbsEos-0.00* AbsBaso-0.02
___ 07:10PM BLOOD ___ PTT-33.4 ___
___ 07:10PM BLOOD Ret Aut-2.9* Abs Ret-0.07
___ 07:10PM BLOOD Glucose-118* UreaN-25* Creat-1.1 Na-133 
K-5.0 Cl-97 HCO3-23 AnGap-18
___ 07:10PM BLOOD ALT-9 AST-9 AlkPhos-56 TotBili-0.3
___ 07:10PM BLOOD Lipase-9
___ 07:10PM BLOOD Albumin-2.5* Iron-6*
___ 07:10PM BLOOD calTIBC-170* Hapto-518* Ferritn-489* 
TRF-131*
___ 07:13PM BLOOD Lactate-1.0

DISCHARGE LABS:
===============
___ 06:00AM BLOOD WBC-6.9 RBC-2.92* Hgb-8.3* Hct-26.8* 
MCV-92 MCH-28.4 MCHC-31.0* RDW-15.4 RDWSD-52.4* Plt ___
___ 06:00AM BLOOD ___ PTT-31.2 ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-86 UreaN-8 Creat-0.8 Na-143 K-3.6 
Cl-106 HCO3-25 AnGap-16
___ 06:00AM BLOOD Calcium-7.5* Phos-3.7 Mg-2.3

MICROBIOLOGY:
=============
Blood cultures x3 pending

___ 4:35 pm pelvic aspiration
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
   FLUID CULTURE (Final ___:    NO GROWTH. 
   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

PERTINENT IMAGING:
==================
CT ABD&PEL W/ CONTRAST 
___
1. Interval decrease in size of the right hemipelvis fluid 
collection (7.0 x 6.5 x 11.3 cm, previously 10.0 x 12.7 x 14.8 
cm) with the anterior approach pigtail catheter unchanged in 
position.  The pigtail is again located partly within the 
collection and partly outside its wall. 
2. Interval increase in size of the left pelvic fluid 
collection, now 
measuring 14.7 x 16.2 x 23.3 cm (previously 13.6 x 13.9 x 23.0 
cm). Increased peripheral enhancement may suggest superimposed 
infection. 
3. No new fluid collection identified. 
  
CTA ABD & PELVIS
___
1. Decrease in size of right lower quadrant fluid collection 
that has 
percutaneous drain within it, with areas of high attenuation on 
noncontrast exam consistent with blood products, and associated 
hyperemia which is likely inflammatory, but without evidence of 
contrast extravasation. 
2. There is large stable fluid collection in the low left 
abdomen, pelvis with mild linear peripheral enhancement, 
infection cannot be excluded. 
3. There is severe left, and moderate to severe right 
hydroureteronephrosis, with delayed left nephrogram, stable from 
today.  Mass effect about anastomosis between distal ureters and 
neobladder has resolved all since ___, and while 
hydronephrosis may be from residual edema, if this does not 
resolve, alternative etiologies including stenosis, tumor 
infiltration should be excluded. 
4. Tiny hepatic lesion segment ___, attention to this area on 
subsequent 
followups recommended. 

CT INTERVENTIONAL PROCEDURE
___ 
1.  Complete collapse the patient has recently drained left 
lower quadrant 
collection.  The catheter from this collection was removed. 
2.  Near complete collapse of the patient is originally drained 
collection in the mid pelvis, with pigtail catheter in place. 
3.  Left lower quadrant and deep pelvic collections as above.  
These findings were discussed with the team.  Given the 
patient's improving clinical status, the decision was made to 
pursue no further collection drainage at this time. 
4.  Severe bilateral hydronephrosis, as on prior examinations. 
RECOMMENDATION:  Given persistence of severe hydronephrosis, 
percutaneous 
nephrostomy tubes should be considered. 

 
Brief Hospital Course:
BRIEF SUMMARY:
==============
___ year old women with a history of bladder cancer s/p 
cystectomy, hysterectomy, and BSO now with ileal conduit, whose 
post operative course has been complicated by DVT/PE, ileus, and 
pelvic fluid collections w/ one LLQ drain presented with 
subjective fevers, lethargy, and bloody drain output. She was 
found to have worsening anemia and was given 2 units of pRBC 
with appropriate increase in hemoglobin noted. She was also 
found on CT imaging to have an interval increase in size of a 
left abdominal fluid collection. Decision was made to place a 
drain per ID. Fluid was sent and revealed: negative cultures, 
negative malignant cells, no evidence of lymphatic or urinary 
fluid. This new drain was subsequently removed per ___ as fluid 
collection was completely drained. The prior drain was still 
draining serosanguinous fluid and was kept in but repositioned. 
ID was consulted for the fevers, leukocytosis and fluid 
collections and was deemed to need antibiotics and tranisitioned 
from broad spectrum to IV ertapenem at discharge. Will require 
multiple follow ups and imaging as specified in the transitional 
issues. 
 
ACUTE ISSUES:
=============
#Pelvic fluid collections: patient arrived with one anterior 
drain putting out serosanguinous fluid. CT abdomen/pelvis 
revealed enlarging left fluid collection, and decision was made 
to place a drain per ___. The fluid was negative for malignant 
cells. The fluid had Cr 1 and triglycerides <9 suggesting that 
fluid collection is neither urine nor lymphatic fluid. Fluid 
culture was negative for bacteria. On interval imaging, the new 
enlarging fluid collection had completely collapsed and the 
drain was removed. As for the other fluid collection that 
already had a drain putting out serosanguinous fluid, it 
continued to drain serosanguinous fluid but at a lower rate than 
prior to admission. The drain was left in place as the fluid 
collection on imaging had not completely collapsed. BID - N 
cultures for the aforementioned fluid collection came back 
positive for MSSA but per ID, does not reflect rue 
intra-abdominal infection. Given that patient had a fever at OSH 
and a leukocytosis, she was placed on broad spectrum antibiotics 
with vanc, ceftaz and flagyl. This was tapered per ID team to IV 
zosyn. On discharge, ID recommended ertapenem for approximately 
4 weeks with final length of treatment to be determined by fluid 
collection changes on repeat imaging on outpatient basis. Mrs. 
___ remained afebrile, and leukocytosis resolved. 

#Pulmonary embolism: Likely developed in the setting of being 
diagnosed with a post-op DVT. She was placed on lovenox.  She 
was transitioned to heparin ggt as she needed ___ procedures and 
was transitioned back to lovenox but at a lower dose per weight 
dosing to 70mg q12H upon discharge. 

#Acute renal injury: SCr has been steadily rising from a 
baseline of around 0.04-0.06 in ___ to 1.1, likely 
___ obstructed uropathy ___ large pelbic fluid collections. ___ 
resolved over the course of her hospital stay with final Cr 0.8. 


#Hydronephrosis: bilateral and worsening on interval imaging 
from prior studies. Given patient's age, adequate urinary 
output, adequate creatinine clearance, and no significant 
electrolyte abnormalities, patient likely would not 
significantly benefit from intervention at this time. Per 
urology consult, deemed stable for discharge and recommended 
outpatient urology followup. 

#Anemia: likely a combination of anemia of chronic inflammation 
and acute blood loss ___ to anterior abdominal drain showing 
serosanguinous fluid. Labs not consistent with hemolysis. 
Received 2 units of pRBC with appropriate response. Patient was 
discharged with Hgb of 8.3 per hem/onc recommendation for 
threshold Hgb>8 as patient feels and functionally performs 
better with higher blood counts. 

#Hypokalemia: was hypokalemic and was repleted with oral KCl 
PRN. 

CHRONIC ISSUES:
===============
#Invasive high-grade urothelial carcinoma, involving the deep 
muscularis propria
S/p cystectomy, hysterectomy, and BSO now with ileal conduit, 
whose post operative course has been complicated by DVT/PE, 
ileus, and pelvic fluid collections.  Patient stating that there 
is no plan for chemo and radiation, her PET scan does show 
concerning foci of metastatic disease in the lung and 
peritoneum. Per patient's son, Mrs. ___ has seen a doctor 
to work up the lung mass. Will need ongoing discussion with 
outpatient hem/onc regarding how to best manage concerning 
lesions. 

#Breast mass ___ mammogram showing BI-RADS 5, Solid mass 
in the 3 o'clock left breast with features of a highly 
suspicious for malignancy. Per patient's son, she has seen a 
doctor for evaluating the new breast mass. Would recommend 
ongoing discussion with aforementioned doctor and outpatient 
hem/onc about plan to manage.

# HLD: continued atorvastatin without changes. Consider 
evaluation regarding stopping atorvastatin on outpatient basis 
 
# Hypothyroidism: continued levothyroxine without changes.   
  
#HCP:  Dr. ___ (son, ___ physician) ___
#Code status: full code (confirmed with patient on ___ 

TRANSITIONAL ISSUES:
====================
[ ] Will need infectious disease follow up. If ID has not 
contacted Mrs ___ by ___, she should call ___ 
to set up an appointment. The ID appointment needs to be AFTER 
her CT abdomen/pelvis has already been done 
[ ] Assure that Mrs ___ has her CT abdomen & pelvis with 
contrast in the week of ___
[ ] She should get weekly lab draws of the following: CBC with 
differential, BUN, Cr, AST, ALT, TB, ALK PHOS. ALL LAB REQUESTS 
SHOULD BE ANNOTATED WITH: **ATTN: ___ CLINIC - FAX: 
___
[ ] If possible, please give ertapenem at night-time so it does 
not interfere with her daily activities. Tentatively, she will 
be receiving ertapenem for ___ weeks but with final treatment 
length determined by the infectious disease team. 
[ ] Will need ongoing discussion with outpatient PCP and hem/onc 
regarding how to manage new breast lesion and lung/peritoneum 
lesions. 
[ ] Reevaluate need for atorvastatin
[ ] Will need outpatient follow up with urology, Dr. ___ 
his team regarding worsening hydronephrosis

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H 
2. Atorvastatin 10 mg PO QPM 
3. Enoxaparin Sodium 90 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
4. Levothyroxine Sodium 175 mcg PO DAILY 
5. LORazepam 0.25-0.5 mg PO DAILY:PRN anxiety 

 
Discharge Medications:
1.  Ertapenem Sodium 1 g IV 1X Duration: 1 Dose 
please give ertapenem daily, preferably at nighttime to not 
interfere with her daily activities  
2.  Milk of Magnesia 30 mL PO Q6H:PRN constipation  
3.  Enoxaparin Sodium 70 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time  
4.  Acetaminophen 650 mg PO Q6H  
5.  Atorvastatin 10 mg PO QPM  
6.  Levothyroxine Sodium 175 mcg PO DAILY  
7.  LORazepam 0.25-0.5 mg PO DAILY:PRN anxiety  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: Pelvic fluid collection infection, ___, acute 
blood loss anemia

Secondary diagnosis: acute renal failure, acute on chronic 
anemia, recent pulmonary embolism, invasive high-grade 
urothelial carcinoma, left breast mass (BIRADS 5), 
hypothyroidism  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ did you come to the hospital?
- You were feeling tired and your drain output was bloody. 

What happened at the hospital?
- A CT scan showed very large fluid collections in your pelvis 
- The radiologists placed another drain and removed it once it 
appeared that the large fluid collection was gone
- You were given a blood transfusion
- We placed a PICC (a long IV) so that you can receive 
antibiotics after you get discharged from the hospital

What needs to happen when you leave the hospital?
- Please continue seeing the doctors that are ___ your 
lung and breast lesions and follow their recommendations. 
- Continue taking Lovenox every day to treat the blood clot in 
your lung. 
- If the infectious disease doctor has not contacted you by ___, please call the following number to set up an appointment: 
___. 
- Please make sure you have a repeat CT scan done BEFORE your 
appointment with the infectious disease doctor
- You will be getting IV antibiotics for several weeks. The 
infectious disease doctor ___ determine how long you will need 
to be on it. 

It was a pleasure taking care of you. 
Your ___ team 
 
Followup Instructions:
___